US06376491B1
3-Methyl-4-oxiranylmethoxy-benzofuran-2-carboxylic acid ethyl ester (500 mg) (Naresh K. Sangwan et al., Eur. J. Med. Chem. (1987), 22(2), 153-6) and 3-picolylamine (1 ml) were dissolved in ethanol (5 ml) and stirred at 70° C. for two hours. The reaction mixture was dissolved in ethyl acetate and washed with saturated ammonium chloride solution and water. The organic solvent was dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified by silica gel column chromatography (dichloromethane-MeOH) to afford 4-[2-hydroxy-3-[(pyridin-3-ylmethyl)-amino]-propoxy]-3-methyl-benzofuran-2-carboxylicacid ethyl ester (330 mg) as a white powder. FAB-MS: m/z 385 (MH+); 1H-NMR (CDCl3): δ 1.44 (3H, t, J=7 Hz), 2.70 (3H, s),2.86 (1H, dd, J1=12 Hz, J2=7 Hz),2.97 (1H, dd, J1=12 Hz, J2=3.5 Hz), 3.85 (1H, d, J=14 Hz), 3.91 (1H, d, J=14 Hz), 4.13 (3H, m), 4.44 (2H, q, J=7 Hz), 6.63 (1H, d, J=8 Hz), 7.14 (1H, d, J=8 Hz), 7.26 (1H, m), 7.28 (1H, t, J=8 Hz), 7.68 (1H, br d, J=8 Hz),8.52 (1H, dd, J1=5 Hz, J2=2 Hz), 8.58 (1H, d, J=2 Hz).

reactant | 3-Methyl-4-oxiranylmethoxy-benzofuran-2-carboxylic acid ethyl ester | 500 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCC2OC2 | C15H16O5
reactant | 3-picolylamine | 1 ml | N1=CC(=CC=C1)CN | C6H8N2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-hydroxy-3-[(pyridin-3-ylmethyl)-amino]-propoxy]-3-methyl-benzofuran-2-carboxylicacid ethyl ester | 330 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCC(CNCC=2C=NC=CC2)O | C21H24N2O5
